US06649641B2
To a solution of 4-cyclohexenylaniline (3,40 g, 0.023 mol) and methyl 4-formylbenzoate (3.77 g, 0.023 mol) in DCM (50 ml) and methanol (15 ml) was added a catalytic amount of acetic acid. After stirring the solution for 3 hours, Na(OAc)3BH (24 g, 0.115 mol) was added. The reaction was allowed to stir at room temperature for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with aqueous sodium bicarbonate (3×), brine (2×), dried over magnesium sulphate, filtered, and concentrated to give an orange solid. The crude product was introduced into a column of silica gel and eluted with ethyl acetate:hexane (5:95) to give 4-[(4-cyclohex-1-enylphenylamino)methyl]benzoic acid methyl ester (5 g, 0.015 mol).

reactant | 4-cyclohexenylaniline | 0.023 mol, 3,40 g | C1(=CCCCC1)C1=CC=C(N)C=C1 | C12H15N
reactant | methyl 4-formylbenzoate | 0.023 mol, 3.77 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Na(OAc)3BH | 0.115 mol, 24 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(4-cyclohex-1-enylphenylamino)methyl]benzoic acid methyl ester | 0.015 mol, 5 g | COC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1=CCCCC1)=O | C21H23NO2
